US07465808B2
D. Methanesulfonic acid 5-(3,4-dichlorophenyl)-1-(4-methoxyphenyl)-1H-pyrazol-3-ylmethyl ester
To a stirred solution of [5-(3,4-dichlorophenyl)-1-(4-methoxyphenyl)-1H-pyrazol-3-yl]-methanol (7.2 g, 0.021 mol) in THF (125 mL) and triethylamine (TEA) (4.6 mL, 0.033 mol) was added methanesulfonyl chloride (2.5 mL, 0.031 mol). The reaction mixture was stirred at 45° C. for 4 h. The reaction mixture was cooled to rt, quenched with H2O (75 mL) then washed with EtOAc (3×50 mL). The organic layer was dried over Na2SO4, filtered and concentrated to oil. This crude pyrazole mesylate was used in the next step without further purification. HPLC: Rt=10.03 (Method E). MS (ES+): mass calculated for C18H18Cl2N2O4S, 427.30; m/z found 428.1 [M+H]+.

reactant | [5-(3,4-dichlorophenyl)-1-(4-methoxyphenyl)-1H-pyrazol-3-yl]-methanol | 0.021 mol, 7.2 g | ClC=1C=C(C=CC1Cl)C1=CC(=NN1C1=CC=C(C=C1)OC)CO | C17H14Cl2N2O2
reactant | triethylamine | 0.033 mol, 4.6 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.031 mol, 2.5 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | THF | 125 mL | C1CCOC1 | C4H8O
product | Methanesulfonic acid 5-(3,4-dichlorophenyl)-1-(4-methoxyphenyl)-1H-pyrazol-3-ylmethyl ester | ClC=1C=C(C=CC1Cl)C1=CC(=NN1C1=CC=C(C=C1)OC)COS(=O)(=O)C | C18H16Cl2N2O4S
